data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21](C=C(C)C1=CC=CC=C1)([C:22]2=[N+:23](N=C3N2C4C(CC5=C4C=CC=C5)OC3)C6=C(C(=C(C(=C6F)F)F)F)F)O.C1CCC2=[N:10]CCCN2CC1.[B-](F)(F)(F)F.CC(=O)C(=CC1=CC=CC=C1)C(=O)C2=CC=CC=C2>>[H:20][N+:10]1=C2CCCCCN2CCC1.CC(=C[C:21](=[C:22]1N2C3C(CC4=C3C=CC=C4)OCC2=N[N:23]1C5=C(C(=C(C(=C5F)F)F)F)F)O)C6=CC=CC=C6.[B-](F)(F)(F)F.CC(=O)C(=CC1=CC=CC=C1)C(=O)C2=CC=CC=C2 10=20;22,23=23;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CCC#[N:10]>>[H:20][N+:10]#CCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CC1CCC2C1(CCC3C2C[CH+:20]C45C3(CCC4C5)C)C.C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)[O-].[K+]>>CC1CCC2C1(CCC3C2C[CH:20](C45C3(CCC4C5)C)[OH+:10]C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)[O-].[K+] 10=20,
[H:20][O:21][C:22](=[O:23])C.[H:10][AlH3-:11]>>C[C:22](=[O:21])[O-:23].[AlH3:11].[H:10][H:20] 10,11=10,20;22,23=23;20,21=21,22
CC(=C1C=CC([C:11](=[CH:10]1)[O-:12])(C)[CH:20](Cl)[Cl:21])C.C(=O)(O)O[Na].[Na+]>>CC(=C1C=CC2([CH:20]([CH:10]1[C:11]2=[O:12])Cl)C)C.[Cl-:21].C(=O)(O)O[Na].[Na+] 10,11=10,20;20,21=21;12=11
CCC1=C(C=C(C=C1)[CH:20]2[C:10](=[C:11]([O-:12])OC)CC(=O)[O:21]2)O.CO.C[OH+][Na]>>CCC1=C(C=C(C=C1)[CH:20]=[C:10](CC(=O)[O-:21])[C:11](=[O:12])OC)O.CO.C[OH+][Na] 10,11=10,20;20,21=21;12=11
[H:20][C:21](Cl)(Cl)Cl.CC(C)(C)[O-:10]>>[H:20][O:10]C(C)(C)C.[C-:21](Cl)(Cl)Cl 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1C=C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C=C[C:22]1=[C:21](C=CC=C1)[N+](=O)[O-] 10=20;20,21=21,22
[H:20][CH2:21][C:22](=[O:23])C(CC1(C(CCC1=O)C)CCC#C)[Si](C)(C)C.C[O-:10].O[K]>>[H:20][O:10]C.CC1CCC(=O)C1(CCC#C)CC([C:22](=[CH2:21])[O-:23])[Si](C)(C)C.O[K] 10=20;22,23=23;20,21=21,22
[H:10][AlH3-:11].C1CC2CC1C3C4CC=CC4C2([C:20]3=[O:21])Cl.[Li+]>>[H:10][C:20]1(C2C3CCC(C3)C1(C4C2CC=C4)Cl)[O-:21].[AlH3:11].[Li+] 10,11=10,20;20,21=21
C[NH+:21](C)[CH:20]([OH:10])OC.[Cl-]>>C[NH:21]C.CO[CH:20]=[OH+:10].[Cl-] 10=20;20,21=21
CC=[O+][Si-:10](C)(C)(C)[O:11]S(=O)(=O)C(F)(F)F>>CC=[O+][Si:10](C)(C)C.C(F)(F)(F)S(=O)(=O)[O-:11] 10,11=11
[H:20][Cl:21].C[C:11]1=[CH:10]C(CCCC1C2=CC=CC=C2)C3=CC=CC=C3>>[H:20][CH:10]1C(CCCC([C+:11]1C)C2=CC=CC=C2)C3=CC=CC=C3.[Cl-:21] 10,11=10,20;20,21=21
[H:20][OH+:21]C(C)C.CC(C)O[Al-](OC1C2CC3C(CC2(C4(CC1=O)OCCO4)C)OC(O3)(C)C)(OC(C)C)[O:10]C(C)C>>[H:20][O+:10](C(C)C)[Al-](OC1C2CC3C(CC2(C4(CC1=O)OCCO4)C)OC(O3)(C)C)(OC(C)C)OC(C)C.CC(C)[OH:21] 10=20;20,21=21
[H:20][O+:21]1CCOC12CCCCC2O.C1=CC=[N:10]C=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].O>>C1CCC2(C(C1)O)OCC[O:21]2.[H:20][N+:10]1=CC=CC=C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].O 10=20;20,21=21
C1C2CC(=CC1C[N:10](C2)[CH2:20][OH2+:21])C3=CC=CN=C3.C1C2CC(=CC1CNC2)C3=CC=CN=C3.C(=O)[O-]>>[CH2:20]=[N+:10]1CC2CC(C1)C=C(C2)C3=CC=CN=C3.[OH2:21].C1C2CC(=CC1CNC2)C3=CC=CN=C3.C(=O)[O-] 10=20;20,21=21
CC[OH+:21][C:20]1(CCCC(O1)C2=CC=CC=C2)[OH:10].C(=O)(C(F)(F)F)[O-]>>CC[OH:21].C1CC(O[C:20](=[OH+:10])C1)C2=CC=CC=C2.C(=O)(C(F)(F)F)[O-] 10=20;20,21=21
[Li-:10]([NH+](C(C)C)C(C)C)[O+:11]=C1C(CC(C2C1O2)(C)C)C.[I-]>>[Li:10][NH+](C(C)C)C(C)C.CC1CC(C2C(C1=[O:11])O2)(C)C.[I-] 10,11=11
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH:20]2CC(CCC2OC(=[O:10])C)CC(C)C>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].CC1=[O+:10][CH:20]2CC(CCC2O1)CC(C)C 10=20;20,21=21
C[C:11](=[CH:10]CCCC[C+:20](C)C)C>>C[C+:11](C)[CH:10]1CCCC[C:20]1(C)C 10,11=10,20
[Li:11][CH2:10]C.C[CH:20]=[O:21]>>[Li+:11].C[CH2:10][CH:20](C)[O-:21] 10,11=10,20;20,21=21
[H:20][O:21]C1=CC=C(C=C1)C2C(C(=O)N2C3=CC=C(C=C3)F)CCC(C4=CC=C(C=C4)F)O.[OH-:10]>>[H:20][OH:10].C1=CC(=CC=C1C2C(C(=O)N2C3=CC=C(C=C3)F)CCC(C4=CC=C(C=C4)F)O)[O-:21] 10=20;20,21=21
[H:20][CH:21]1CC2(C3CC4=C(C2(CCN3C)C[C:22]1=[NH+:23]C(C(=O)C)C(=O)N(CC5=CC=CC=C5)C(C)C)C=CC=C4)O.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CC(C)N(CC1=CC=CC=C1)C(=O)C(C(=O)C)[NH:23][C:22]2=[CH:21]CC3(C4CC5=C(C3(C2)CCN4C)C=CC=C5)O.O 10=20;22,23=23;20,21=21,22
CC[Si-:10](CC)(CC)([O+:11]=C1CCCC2C13CC4CCCC4C3C(C2)OC)[O+](C)[Sn-](Cl)(Cl)(Cl)Cl>>CC[Si:10](CC)(CC)[O+](C)[Sn-](Cl)(Cl)(Cl)Cl.COC1CC2CCCC(=[O:11])C23C1C4CCCC4C3 10,11=11
C[Si](C)(C)C[CH2:10][O:11]C(=O)C(F)(F)F>>C[Si](C)(C)C[CH2+:10].C(=O)(C(F)(F)F)[O-:11] 10,11=11
CC(=[O:10])O.CC(=O)O[Si:20](C)(C)C>>CC(=[O+:10][Si-:20](C)(C)(C)OC(=O)C)O 10=20,
C1=C[C:13](=[C:12]([CH:11]=[CH:10]1)Br)O.[Br:20][Br:21]>>C1=C[C+:13]([C:12](=[CH:11][CH:10]1[Br:20])Br)O.[Br-:21] 10,11=10,20;20,21=21;12,13=11,12
[H:20][CH2:21][N+](=O)[O-].CC[O-:10]>>[H:20][O:10]CC.[CH2-:21][N+](=O)[O-] 10=20;20,21=21
CC(=O)O[Si:20](C)(C)C.C[N-:10]C>>CC(=O)O[Si-:20](C)(C)(C)[N:10](C)C 10=20,
[CH3:20][Br:21].[CH2:10]=[CH:11][N:12]1CCCCC1>>[CH3:20][CH2:10][CH:11]=[N+:12]1CCCCC1.[Br-:21] 10,11=10,20;20,21=21;12=11
CCC1=C([O+:21]=[C:20]([CH:10]1[Si-:11](C)(C)(C(C)(C)C)F)C)CC2=CC=CC=C2.C1=CC=NC=C1>>CCC1=C([O:21][C:20](=[CH:10]1)C)CC2=CC=CC=C2.CC(C)(C)[Si:11](C)(C)F.C1=CC=NC=C1 10,11=10,20;20,21=21
CC(=O)N1CC[C:20](=[O:21])CC1.C1CC[NH:10]C1.CC1=CC=C(C=C1)S(=O)(=O)O>>CC(=O)N1CC[C:20](CC1)([NH+:10]2CCCC2)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)O 10=20;20,21=21
[H:20][O:21]C(=O)C.C1CC(CCC1C=O)(O)[O:10]CCO.CO.O>>[H:20][O+:10](CCO)C1(CCC(CC1)C=O)O.CC(=O)[O-:21].CO.O 10=20;20,21=21
